US09029544B2
(34) (R)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol
Obtained by starting from (R)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol and 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane.

reactant | (R)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](O)C=1C=NC(=CC1)C(F)(F)F)I | C27H38F3IN2O2Si
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
product | (R)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(6-(trifluoromethyl)pyridin-3-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](O)C=1C=NC(=CC1)C(F)(F)F)C=1CCOCC1 | C32H45F3N2O3Si
